US06855824B2
Methyl 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carboxylate (32.1 g, 100 mmol) and toluene (300 ml) were placed in a different 1000 ml three-necked flask, and the system was replaced by nitrogen and cooled to −5° C. To this solution was added dropwise the entire amount of a toluene solution prepared earlier by mixing sodium bis(2-methoxyethoxy)aluminum hydride and morpholine, while maintaining the inner temperature to not higher than 0° C., and after completion of the addition, the mixture was heated to room temperature and stirred for 3 hr. This reaction mixture was added dropwise to a 15% aqueous sulfuric acid solution (200 ml) while maintaining the inner temperature to not higher than 10° C. The organic layer was separated from the mixture and the aqueous layer was extracted with toluene (30 ml). The extract was combined with the organic layer obtained earlier. The mixture was washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated. The obtained residue was recrystallized from diisopropyl ether to give 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carbaldehyde (22.4 g, yield 76%).

reactant | Methyl 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carboxylate | 100 mmol, 32.1 g | FC1=CC=C(C=C1)C1=C(C(=NC2=CC=CC=C12)C1CC1)C(=O)OC | C20H16FNO2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carbaldehyde | 22.4 g, yield 76% | FC1=CC=C(C=C1)C1=C(C(=NC2=CC=CC=C12)C1CC1)C=O | C19H14FNO
